US04734407
(a) 6-Hydroxymethyl-quinoline (1a)
59.5 g (0.296 mole) of ethyl quinoline-6-carboxylate are stirred in 970 ml of ether at -70° C. with 750 ml (0.9 mole) of diisobutylaluminum hydride (DIBAL, 20% strength in toluene, 1.2 molar) overnight. The temperature is then allowed to rise to -35° C. and 310 ml of sodium chloride solution are added, whereupon the temperature slowly comes to 20° C. The mixture is stirred at 20° C. for 3 hours and the aluminum hydroxide is filtered off with suction and rinsed with ether/ethyl acetate. The organic phase is washed with 100 ml of sodium chloride solution, dried over Na2SO4 and evaporated. Crude yield: 40 g

reactant | ethyl quinoline-6-carboxylate | 0.296 mole, 59.5 g | N1=CC=CC2=CC(=CC=C12)C(=O)OCC | C12H11NO2
reactant | diisobutylaluminum hydride | 0.9 mole, 1.2 molar, 750 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium chloride | 310 ml | [Cl-].[Na+]
solvent | ether | 970 ml | CCOCC | C4H10O
product | 6-Hydroxymethyl-quinoline | OCC=1C=C2C=CC=NC2=CC1 | C10H9NO
